US07592373B2
5.29.b. (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl-(4-methylcyclohexyl)amino]methyl}phenyl)acrylamide
A reaction mixture of 100 mg (0.226 mmol) of 4-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl methanesulfonate, 37.34 mg (0.29 mmol) of methyl-(4-methylcyclohexyl)amine, and 0.1 mL of triethylamine in 10 mL of dichloromethane is stirred for 18 hours at ambient temperature. Then the reaction mixture is extracted between water and dichloromethane, the organic phase is separated off, dried, and evaporated down. The residue is purified by column chromatography on silica gel (eluant: dichloromethane/methanol/ammonia (90:10:1)). Yield: 52 mg (49% of theory); C30H33ClN2O (M=473.05); melting point: 227° C.-258° C.; calc.: molecular ion peak (M+H)+: 473/475 (Cl); found: molecular ion peak (M+H)+: 473/475 (Cl); Rf value: 0.48 (silica gel, dichloromethane/methanol/ammonia (90:10:1)).

reactant | 4-[(E)-2-(4′-chlorobiphenyl-4-ylcarbamoyl)vinyl]benzyl methanesulfonate | 0.226 mmol, 100 mg | CS(=O)(=O)OCC1=CC=C(C=C1)\C=C\C(NC1=CC=C(C=C1)C1=CC=C(C=C1)Cl)=O | C23H20ClNO4S
reactant | methyl-(4-methylcyclohexyl)amine | 0.29 mmol, 37.34 mg | CNC1CCC(CC1)C | C8H17N
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (E)-N-(4′-chlorobiphenyl-4-yl)-3-(4-{[methyl-(4-methylcyclohexyl)amino]methyl}phenyl)acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(\C=C\C1=CC=C(C=C1)CN(C1CCC(CC1)C)C)=O | C30H33ClN2O
